US05190959
The procedure of Example 24 (a) was repeated except for using 4-[(3-pyridyl)-2-thienylmethoxy]piperidine and 1-chloro-3-(2-nitrophenoxy)propane instead of 4-[(2-chlorophenyl)-phenylmethoxy]piperidine and 1-chloro-3-(2-nitrophenoxy)propane to give oily 4-[(3-pyridyl)-2-thienylmethoxy]-1-[3-(2-nitrophenoxy)propyl]piperidine.

reactant | 4-[(3-pyridyl)-2-thienylmethoxy]piperidine | N1=CC(=CC=C1)C(OC1CCNCC1)C=1SC=CC1 | C15H18N2OS
reactant | 1-chloro-3-(2-nitrophenoxy)propane | ClCCCOC1=C(C=CC=C1)[N+](=O)[O-] | C9H10ClNO3
product | 4-[(3-pyridyl)-2-thienylmethoxy]-1-[3-(2-nitrophenoxy)propyl]piperidine | N1=CC(=CC=C1)C(OC1CCN(CC1)CCCOC1=C(C=CC=C1)[N+](=O)[O-])C=1SC=CC1 | C24H27N3O4S
